US07098212B2
N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetyl]-methanesulfonamide
To a solution of (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetic acid (0.70 g, 1.44 mmol) was added 4-dimethylaminopyridine (0.26 g, 2.16 mmol), (3-(dimethylamino)propyl)ethyl carbodiimide hydrochloride (0.42 g, 2.16 mmol), methanesulfonamide (0.15 g, 1.58 mmol) and triethylamine (0.40 mL, 2.88 mmol). The reaction was stirred at ambient temperature for 18 hours. The reaction mixture was then diluted with dichloromethane and washed with 1 M aqueous hydrochloric acid. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel to give the title compound (0.34 g, LRMS: 526.2).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetic acid | 1.44 mmol, 0.70 g | ClC=1C=CC(=C(C1)CC(=O)O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C23H26ClFN2O4
reactant | (3-(dimethylamino)propyl)ethyl carbodiimide hydrochloride | 2.16 mmol, 0.42 g | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 1.58 mmol, 0.15 g | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 2.88 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 2.16 mmol, 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetyl]-methanesulfonamide | 0.34 g | ClC=1C=CC(=C(C1)CC(=O)NS(=O)(=O)C)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H29ClFN3O5S
